US06956050B2
STEP 3. N-[({2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]-4-chlorobenzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from phenyl 2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethylcarbamate and 4-chlorobenzenesulfonamide. MS (ESI) m/z 489 [M+H]+, 487 [M−H]−, 1H-NMR (CDCl3)δ1.12 (3H, t, J=7.5 Hz), 1.31 (9H, s), 2.62 (2H, q, J=7.5 Hz), 2.84 (2H, t, J=7.0 Hz), 3.45-3.54 (2H, m), 6.48 (1H, br),6.65 (1H, s), 7.17 (2H, d, J=8.5 Hz), 7.24 (2H, d, J=8.5 Hz), 7.43 (2H, d, J=8.4 Hz), 7.82 (2H, d, J=8.8 Hz).

reactant | phenyl 2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethylcarbamate | C(C)(C)(C)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O)CC | C24H29N3O2
reactant | 4-chlorobenzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
product | N-[({2-[4-(4-tert-butyl-2-ethyl-1H-imidazol-1-yl)phenyl]ethyl}amino)carbonyl]-4-chlorobenzenesulfonamide | C(C)(C)(C)C=1N=C(N(C1)C1=CC=C(C=C1)CCNC(=O)NS(=O)(=O)C1=CC=C(C=C1)Cl)CC | C24H29ClN4O3S
